US07517873B2
To a mixture of 3-methoxy-4-((R)-6-methyl-5-oxo-2,3,3a,4,5,6-hexahydro-1H-6,8,10,10b-tetraaza-benzo[e]azulen-9-ylamino)-benzoic acid (I-102a), 0.32 mL (0.0018 mole) of ethyldiisopropylamine and 0.082 g (0.00072 mole) of 4-amino-1-methyl-piperidine in 3.0 mL of dimethylformamide was added 0.31 g (0.00072 mole) of 1-(di-1-pyrrolidinylmethylene)-1H-benzotriazolium 3-oxide hexafluorophosphate. The mixture was stirred at room temperature for 3 hours, then diluted with saturated sodium carbonate. The mixture was extracted with ethyl acetate three times. The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification of the residue by silica gel chromatography, eluting with dichloromethane-methanol (100:0-60:40) gave 0.060 g of 3-methoxy-4-((R)-6-methyl-5-oxo-2,3,3a,4,5,6-hexahydro-1H-6,8,10,10b-tetraaza-benzo[e]azulen-9-ylamino)-N-(1-methyl-piperidin-4-yl)-benzamide (I-102).

reactant | 3-methoxy-4-((R)-6-methyl-5-oxo-2,3,3a,4,5,6-hexahydro-1H-6,8,10,10b-tetraaza-benzo[e]azulen-9-ylamino)-benzoic acid | COC=1C=C(C(=O)O)C=CC1NC=1N=CC2=C(N3CCC[C@@H]3CC(N2C)=O)N1 | C19H21N5O4
reactant | ethyldiisopropylamine | 0.0018 mole, 0.32 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-amino-1-methyl-piperidine | 0.00072 mole, 0.082 g | NC1CCN(CC1)C | C6H14N2
solvent | dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 3-methoxy-4-((R)-6-methyl-5-oxo-2,3,3a,4,5,6-hexahydro-1H-6,8,10,10b-tetraaza-benzo[e]azulen-9-ylamino)-N-(1-methyl-piperidin-4-yl)-benzamide | 0.060 g | COC=1C=C(C(=O)NC2CCN(CC2)C)C=CC1NC=1N=CC2=C(N3CCC[C@@H]3CC(N2C)=O)N1 | C25H33N7O3
